US03951876
Into a 2 liter flask fitted with a 1 meter adiabatic column provided with a metallic lining, are placed: 400 g of 3-cyanomethyl-2-n-pentyl-1-cyclopentanone, 522 g of the glycoketal of methylethyl ketone and 4.5 g of paratoluenesulphonic acid. The mass is progressively heated in order to slowly distil the methyl ethyl ketone from the head of the column (temperature of the mass 128°-132°C; temperature of the vapour 80°C). The operation lasts about 5 hours. Then the excess glycoketal of methylethyl ketone is removed (temperature of the mass 132°-135°C; temperature of the vapour 110°-112°C). The mass is then cooled, 30 g of dry sodium carbonate added thereto, stirred for a half-hour and the mass washed to neutrality after diluting with 200 ml of ethyl ether. After distillation of the solvent and rectification of the crude product, there is obtained 360 g of 3-cyanomethyl-1,1-ethylenedioxy-2-n-pentyl-cyclopentane, which represents a yield of 73.4%. The product exhibits the following constants: b.p.0.5 = 136°-138°C, nD15 = 1.4724.

reactant | 3-cyanomethyl-2-n-pentyl-1-cyclopentanone | 400 g | C(#N)CC1C(C(CC1)=O)CCCCC | C12H19NO
reactant | paratoluenesulphonic acid | 4.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methylethyl ketone | CC(=O)CC | C4H8O
product | 3-cyanomethyl-1,1-ethylenedioxy-2-n-pentyl-cyclopentane | 360 g, yield of 73.4% | C(#N)CC1C(C2(CC1)OCCO2)CCCCC | C14H23NO2
